US07449486B2
Step A: Preparation of {3-[5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-[1,3,4]thiadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester:
To a solution of (4-oxo-4-phenylbutyl)-carbamic acid tert-butyl ester (2.2 g, 8.5 mmol) in ethanol/DCM (30 mL/10 mL) was added 3-fluorothiobenzoic acid hydrazide (Takasugi, J. J.; Buckwalter, B. L. European patent EP 1004241, 2004) (1.2 g, 7.1 mmol) at room temperature. After stirring for 3 days, the reaction mixture was concentrated and purified by flash column chromatography (20:1 Hexanes/EtOAc) to provide the product (2.65 g, 90%).

reactant | (4-oxo-4-phenylbutyl)-carbamic acid tert-butyl ester | 8.5 mmol, 2.2 g | C(C)(C)(C)OC(NCCCC(C1=CC=CC=C1)=O)=O | C15H21NO3
reactant | 3-fluorothiobenzoic acid hydrazide | 7.1 mmol, 1.2 g | FC=1C=C(C(=S)NN)C=CC1 | C7H7FN2S
solvent | ethanol DCM | 30 mL | C(C)O.C(Cl)Cl
product | {3-[5-(3-fluorophenyl)-2-phenyl-2,3-dihydro-[1,3,4]thiadiazol-2-yl]-propyl}-carbamic acid tert-butyl ester | 2.65 g, 90% | C(C)(C)(C)OC(NCCCC1(SC(=NN1)C1=CC(=CC=C1)F)C1=CC=CC=C1)=O | C22H26FN3O2S
